* D:\4 WORKSPACE\24-OBC\OBC\0101 Modeling and Simulation\0001 LT SPICE SIMULATION\Trafo\Trafo.asc
V5 Vin 0 PULSE(-400 400 0 2u 2u 50u 100u) Rser=0.0001
L§W2 N003 Vsec 1u Ipk=40 Rser=0 Rpar=0 Cpar=0
L§W1 0 Vpri 1u Ipk=40 Rser=0 Rpar=0 Cpar=0
Lm Vpri 0 4.5u Ipk=40 Rser=1e-10 Rpar=0 Cpar=0
Rc Vpri 0 10
Rp N001 Vin 0.0001
Lp N001 Vpri 1e-10 Ipk=40 Rser=0 Rpar=0 Cpar=0
Rs N002 Vsec 0.001
Ls N002 Vo 1e-9 Ipk=40 Rser=0 Rpar=0 Cpar=0
Rs1 N003 0 100E
C1 0 N003 100E
R§Load N003 Vo 40
* Real Trafo Model
.tran 0 1 0 1e-3
K1 W1 W2 1
* Lpri/Lsec = (Npri/Nsec)²
* Ideal Trafo
.backanno
.end
